US05716756
4.1 g (10 mmol) of 1,3-bis-(1-hydroxy-1-trifluoromethyl-2,2,2-trifluoroethyl)-benzene were dissolved in 50 ml of methylene chloride, and 2.5 g (25 mmol) of triethylamine were added. 3.64 g (25 mmol) of methanesulfonyl chloride were then added dropwise. The mixture was stirred for 8 hours at room temperature, separated off from the precipitated salt and evaporated down. 5.6 g of 1,3-bis-(1-methanesulfonyloxy-1-trifluoromethyl-2,2,2-trifluoro-ethyl)-benzene were obtained (colorless crystals, m.p.: 125° C. [from diisopropyl diether]).

reactant | 1,3-bis-(1-hydroxy-1-trifluoromethyl-2,2,2-trifluoroethyl)-benzene | 10 mmol, 4.1 g | OC(C(F)(F)F)(C(F)(F)F)C1=CC(=CC=C1)C(C(F)(F)F)(O)C(F)(F)F | C12H6F12O2
reactant | triethylamine | 25 mmol, 2.5 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 25 mmol, 3.64 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1,3-bis-(1-methanesulfonyloxy-1-trifluoromethyl-2,2,2-trifluoro-ethyl)-benzene | 5.6 g | CS(=O)(=O)OC(C(F)(F)F)(C(F)(F)F)C1=CC(=CC=C1)C(C(F)(F)F)(OS(=O)(=O)C)C(F)(F)F | C14H10F12O6S2
